US04171375
8N Jones reagent [90 ml; prepared by dissolving chromium trioxide (24.0 g) in a small volume of water, treating carefully with concentrated sulphuric acid (20.7 ml) and diluting with water to 90 ml with cooling] was added to a stirred solution of 2-(7-hydroxyheptyl)cyclopent-2-enone (39.2 g) in acetone (400 ml) at 10°-22° C. at a rate such that the deep red colouration caused by the addition of one drop of the Jones reagent had changed to green before addition of the next drop. The resulting mixture was then stirred at 15°-20° C. for 90 minutes. The reaction mixture was diluted with sufficient water to dissolve the precipitated chromium salts and was then extracted four times with diethyl ether. The combined ether extracts were washed with water, and then extracted three times with aqueous 2N sodium carbonate solution. The combined aqueous solutions were then acidified to pH 1 by the dropwise addition of concentrated hydrochloric acid and extracted twice with diethyl ether. The combined ethereal extracts were dried over magnesium sulphate and evaporated in vacuo to give an oil which crystallised on standing. Recrystallisation from a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether gave 7-(5-oxocyclopent-1-enyl)heptanoic acid (28 g), m.p. 41°-43° C.

reactant | Jones reagent | 8N | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulphuric acid | 20.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-(7-hydroxyheptyl)cyclopent-2-enone | 39.2 g | OCCCCCCCC=1C(CCC1)=O | C12H20O2
solvent | water | O | H2O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
catalyst | Jones reagent | one drop | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
catalyst | chromium trioxide | 24.0 g | [O-2].[O-2].[O-2].[Cr+6]
catalyst | chromium | [Cr] | Cr
product | 7-(5-oxocyclopent-1-enyl)heptanoic acid | 28 g | O=C1CCC=C1CCCCCCC(=O)O | C12H18O3
